US05482974
A mixture of 2-[(1,1-diethylethyl)oxy]-6-chlorobenzamide (1.00 g, 3.9 mmol) and tetrabutylammonium bisulfate (0.13 g, 0.4 mmol) in 50% aqueous sodium hydroxide (25 mL) and toluene (15 mL) was heated to 100° C. and n-propyl bromide (0.43 mL, 4.7 mmol) in toluene (10 mL) was added over 30 min. The reaction was heated for 1 h, was cooled and poured into water. The mixture was extracted with ether and the organic layers were washed with brine, dried (MgSO4) and concentrated to a white solid. The crude product was purified by radial chromatography to afford 0.78 g (67%) of N-propyl 2-[(1,1-diethylethyl)oxy]-6-chlorobenzamide as a white solid: mp 100°-102° C.

reactant | 2-[(1,1-diethylethyl)oxy]-6-chlorobenzamide | 3.9 mmol, 1.00 g | C(C)C(C)(CC)OC1=C(C(=O)N)C(=CC=C1)Cl | C13H18ClNO2
reactant | n-propyl bromide | 4.7 mmol, 0.43 mL | CCCBr | C3H7Br
reactant | water | O | H2O
catalyst | tetrabutylammonium bisulfate | 0.4 mmol, 0.13 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 25 mL | [OH-].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-propyl 2-[(1,1-diethylethyl)oxy]-6-chlorobenzamide | 0.78 g, 67% | C(CC)NC(C1=C(C=CC=C1Cl)OC(C)(CC)CC)=O | C16H24ClNO2
